US08071796B2
2) Synthesis of 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoic Acid
Ethyl 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate is used as starting material. 27.1 g (120 mmole) ethyl 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate is emulsified in 60 mL water, the pH is adjusted to 8.0 with sodium hydroxide solution, the solution is stirred at room temperature. 6 g of the enzyme (Novozyme 388) is added at room temperature. The mixture is stirred for 10 hours under GC control.

reactant | Ethyl 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate | OC(C(=O)OCC)(C=C(C)C)C(F)(F)F | C9H13F3O3
reactant | ethyl 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate | 120 mmole, 27.1 g | OC(C(=O)OCC)(C=C(C)C)C(F)(F)F | C9H13F3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 60 mL | O | H2O
product | 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoic Acid | OC(C(=O)O)(C=C(C)C)C(F)(F)F | C7H9F3O3
